.title KiCad schematic
v6 /SEL_HI_A GND DC
U4 /CLK /RST /RX /REQ /SEL_LO /SEL_HI /TXB_D /BUSY_B /DONE_B /ARB_B /RXV_B /ERRF_B /BOFF_B can_node_top
U3 /CLK /RST /RX /REQ /SEL_LO /SEL_LO /TXA_D /BUSY_A /DONE_A /ARB_A /RXV_A /ERRF_A /BOFF_A can_node_top
U5 /TXA_D /TXB_D /TXA_A /TXB_A dac_bridge_2
v5 /SEL_LO_A GND DC
X1 /TXA_A /TXB_A /RX_A /VCC5 GND can_phy
v4 /VCC5 GND DC
v1 /CLK_A GND pulse
v3 /REQ_A GND pulse
U2 /CLK_A /RST_A /REQ_A /RX_A /CLK /RST /REQ /RX adc_bridge_4
v2 /RST_A GND pulse
U1 /SEL_LO_A /SEL_HI_A /SEL_LO /SEL_HI adc_bridge_2
.end
